US09085534B2
Preparation 79A: 6-(3,3,3-trifluoropropoxy)-3,4-dihydronaphthalen-1(2H)-one
6-Hydroxy-1-tetralone (3.5 g, 21.6 mmol), 3,3,3-trifluoro-1-propanol (4.93 g, 43.2 mmol) and triphenylphosphine (11.3 g, 43.2 mmol) were combined in THF (80 mL). DIAD (8.7 g, 43.2 mmol) was added, and the reaction stirred overnight at rt. The solution was diluted with EtOAc (100 mL) and washed with brine. Organics were dried (MgSO4) and concentrated. Purification by silica gel chromatography (10-50% EtOAc/hexanes) gave 2.93 g (53%) of the title compound as a clear oil. 1H NMR (400 MHz, DMSO-d6): δ 8.02 (d, 1H, J=8.7 Hz), 6.82 (dd, 1H, J=8.7, 2.5 Hz), 6.71 (d, 1H, J=2.4 Hz), 4.25 (t, 2H, J=6.6 Hz), 2.93 (t, 2H, J=6.1 Hz), 2.59-2.71 (m, 4H), 2.08-2.16 (m, 2H). [M+H] calc'd for C13H13F3O2, 259; found 259.

reactant | 6-Hydroxy-1-tetralone | 21.6 mmol, 3.5 g | OC=1C=C2CCCC(C2=CC1)=O | C10H10O2
reactant | 3,3,3-trifluoro-1-propanol | 43.2 mmol, 4.93 g | FC(CCO)(F)F | C3H5F3O
reactant | triphenylphosphine | 43.2 mmol, 11.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 43.2 mmol, 8.7 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 6-(3,3,3-trifluoropropoxy)-3,4-dihydronaphthalen-1(2H)-one | 2.93 g, 53% | FC(CCOC=1C=C2CCCC(C2=CC1)=O)(F)F | C13H13F3O2
